US05795958
A solution of N-Carboxybenzoyloxy-3-O-(2,3,4-tri-O-acetyl-β-L-fucopyranosyl)-L-serine Benzyl Ester (600 mg, 1.0 mmol) in 98% ethanol (15 ml) containing 5% Pd/C (300 mg) was hydrogenated for 16 h at room temperature and at 1 atmospheric pressure. The catalyst was collected on celite and washed with several portions of 98% ethanol. The filtrate and washings were combined and concentrated to dryness to give 3-O-(2,3,4-tri-O-acetyl-β-L-fucopyranosyl)-L-serine (306.6 mg, 81.6%) as a white powder Rf =0.34 (dichloromethane:methanol:water, 60:35:3). 1H-NMR (CD3OD): ε 5.23 (dd, 1 H, J3,4 =3.0, J4,5 =1.0 Hz, H-4), 5.14-5.02 (m, 2 H, H-2 and 3), 4.68 (d, 1 H, J1,2 =7.5 Hz, H-1), 4.24 (dd, 1 H, Jgem =7.5 Hz, H-1), 4.24 (dd, 1 H, Jgem =10.5, JCH,CHN =2.0 Hz, serine CH), 4.13-4.04 (m, 2 H, serine CHH and CHN), 4.01 (dq, J5,6 =6.5 Hz, H-5), 2.13, 2.05 and 1.93 (each s, 3 H, Ac), 1.19 (d, 3 H, H-6). N-(9-Fluorenylmethyloxycarbonyl)-3-O-(2,3,4-tri-O-acetyl-β-L-fucopyranosyl)-L-serine (FIG. 1E).

reactant | N-Carboxybenzoyloxy-3-O-(2,3,4-tri-O-acetyl-β-L-fucopyranosyl)-L-serine Benzyl Ester | 1.0 mmol, 600 mg | C(C1=CC=CC=C1)OC([C@@H](N(C(=O)O)OC(C1=CC=CC=C1)=O)CO[C@@H]1[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](O1)C)=O | C30H33NO14
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 3-O-(2,3,4-tri-O-acetyl-β-L-fucopyranosyl)-L-serine | 306.6 mg, 81.6% | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C)OC[C@H](N)C(=O)O | C15H23NO10
